US05973190
Preparation of Ethyl 1-(p-chlorophenyl)-β-oxo-cyclopropanepropionate
A solution of ethyl 1-(p-chlorophenyl)-β-hydroxy-cyclopropanepropionate (7.9 g, 29.4 mmol) and 4-methyl-morpholine N-oxide (14.0 g, 120 mmol) in acetonitrile containing 30 4 Å molecular sieves is stirred at room temperature for 20 minutes, treated with tetrapropyl-ammonium perruthenate (0.8 g, 2.3 mmol), stirred for two hours while maintaining the reaction mixture temperature at room temperature with an ice-water bath, diluted with diethyl ether, filtered through diatomaceous earth, and concentrated in vacuo to obtain a residue. A solution of the residue in diethyl ether is washed sequentially with water, 5% sulfuric acid, water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to obtain a dark oil. Chromatography of the oil using silica gel and a 1:19 to 3:17 ethyl acetate/hexanes gradient gives the title product as a pale yellow oil (4.3 g, 55%) which is identified by NMR spectral analyses.

reactant | ethyl 1-(p-chlorophenyl)-β-hydroxy-cyclopropanepropionate | 29.4 mmol, 7.9 g | ClC1=CC=C(C=C1)C1(CC1)C(CC(=O)OCC)O | C14H17ClO3
reactant | 4-methyl-morpholine N-oxide | 120 mmol, 14.0 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrapropyl-ammonium perruthenate | 2.3 mmol, 0.8 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | Ethyl 1-(p-chlorophenyl)-β-oxo-cyclopropanepropionate | 4.3 g, 55% | ClC1=CC=C(C=C1)C1(CC1)C(CC(=O)OCC)=O | C14H15ClO3
